US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-phenylaniline were reacted to yield N2,N4-bis[(3-phenyl)phenyl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.02 (d, 1H, J=5.1 Hz), 7.82 (t, 1H, J=1.5 Hz), 7.67 (t, 1H, J=1.8 Hz), 7.58 (dd, 1H, J=1.2 and 7.2 Hz), 7.42–7.24 (m, 15H); LCMS: ret. time: 32.06 min.; purity: 94%; MS (m/e): 433 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-phenylaniline | C1(=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11N
product | N2,N4-bis[(3-phenyl)phenyl]-5-fluoro-2,4-pyrimidinediamine | C1(=CC=CC=C1)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C1=CC=CC=C1)F | C28H21FN4
